US06900318B1
5) (2S)-3-Carbamoyl-2-(naphthalene-1-sulfonylamino)propionic Acid
132.12 g (1 mol) of (S)-asparagine were dissolved in a mixture of 800 ml of water and 500 ml of 2 N sodium hydroxide. Then 500 ml of tetrahydrofuran were added. The mixture was cooled to 0° C., and while keeping the pH at 12.0-12.5 with 2 N sodium hydroxide a solution of 226.7 g (1 mol) of naphthalene-1-sulfonyl chloride in 500 ml of tetrahydrofuran was added within 1 h. The mixture was stirred for 1 h at 0° C. while maintaining the pH at 12.5. Then the mixture was allowed to warm to room temperature, stirred for further 2 h and left at room temperature overnight. The pH was adjusted to about 7 with concentrated hydrochloric acid and the tetrahydrofuran was removed in vakuum in a rotary evaporator. The remaining aqueous solution was cooled to 0° C. and with stirring acidified to pH 0.8 by addition of concentrated hydrochloric acid. After stirring for 30 min at 0° C. the precipitated product was filtered off, washed with water and dried in vacuo at 40° C. Yield: 240 g (75%).

reactant | (S)-asparagine | 1 mol, 132.12 g | N[C@@H](CC(N)=O)C(=O)O | C4H8N2O3
reactant | naphthalene-1-sulfonyl chloride | 1 mol, 226.7 g | C1(=CC=CC2=CC=CC=C12)S(=O)(=O)Cl | C10H7ClO2S
reactant | hydrochloric acid | Cl | ClH
solvent | water | 800 ml | O | H2O
solvent | sodium hydroxide | 2 N, 500 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
solvent | sodium hydroxide | 2 N | [OH-].[Na+]
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
product | (2S)-3-Carbamoyl-2-(naphthalene-1-sulfonylamino)propionic Acid | C(N)(=O)C[C@@H](C(=O)O)NS(=O)(=O)C1=CC=CC2=CC=CC=C12 | C14H14N2O5S
